US09029560B2
Preparation of 1-[(5-chloro-2-isopropyl-phenyl)carbamothioyl]-3-[[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea (FB26)
The title compound was prepared as described in Example 75 using 3-(3-(isocyanatomethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (CB34) and 1-(5-chloro-2-isopropylphenyl)thiourea (CB32) and isolated as an off-white solid (0.170 g, 38%).

reactant | 3-(3-(isocyanatomethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | N(=C=O)CC=1C=C(C=CC1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C17H11F3N4O2
reactant | 1-(5-chloro-2-isopropylphenyl)thiourea | ClC=1C=CC(=C(C1)NC(=S)N)C(C)C | C10H13ClN2S
product | 1-[(5-chloro-2-isopropyl-phenyl)carbamothioyl]-3-[[3-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]methyl]urea | ClC=1C=CC(=C(C1)NC(=S)NC(=O)NCC1=CC(=CC=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C | C27H24ClF3N6O2S
